US05143918
A stirred solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (7.0 g, 8.84 mmol) containing 2,6 lutidine (3.7 g, 34.6 mmol) was cooled to 0° C. and treated with triisopropylsilyl trifluoromethanesulfonate (11.06 g, 36.0 mmol). After stirring at RT for 16 hr, the reaction mixture was diluted with n-hexane (400 ml). The suspension was filtered and the filtrate passed over SiO2 (760 g). Elution with n-hexane/ethyl acetate (3:1) yielded 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (9.18 g, 94%) as a foam. Mass Spec (C61H109NO12Si2)(1104.72) FAB+Li:1110 (M+Li), 745, 720, 695, 266.

reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 8.84 mmol, 7.0 g | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
reactant | 2,6 lutidine | 34.6 mmol, 3.7 g | N1=C(C=CC=C1C)C | C7H9N
reactant | triisopropylsilyl trifluoromethanesulfonate | 36.0 mmol, 11.06 g | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
solvent | n-hexane | 400 ml | CCCCCC | C6H14
product | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(4"-triisopropylsilyloxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 9.18 g, 94% | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O[Si](C(C)C)(C(C)C)C(C)C)OC)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C61H109NO12Si2
